US04138581
A mixture of 30 g. of 3,4-bis(butyryloxy)phenyl N-tert-butylaminomethyl ketone hydrochloride, 200 ml. of 90 per cent ethyl alcohol, and 2 g. of 10 per cent palladium-on-charcoal hydrogenation catalyst was hydrogenated for two hours at 50° C. under an initial hydrogen pressure of 50 pounds per square inch. The hydrogenation mixture was filtered to remove the catalyst. The solvent was evaporated from the filtrate under reduced pressure and the resulting residue was taken up in 50 ml. of isopropyl alcohol, allowed to stand overnight at 5° C., and filtered to remove 3 g. of solid. The filtrate was evaporated under reduced pressure, the residue thus obtained was dissolved in 50 ml. of isopropyl acetate, and this solution was filtered to remove a small amount of insoluble solid. When the filtrate was diluted with anhydrous diethyl ether, a solid separated from solution. This solid was collected on a filter. There was thus obtained 20 g. of crude 3,4-bis(butyryloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol hydrochloride. This salt was dissolved in water and then ammonium hydroxide was added, resulting in precipitation of the free base, 3,4-bis(butyryloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol. This precipitate was collected on a filter and washed well first with water and then with n-hexane. This base, which melted at 97- 99° C. (uncorr.), was dissolved in isopropyl alcohol and this solution was concentrated under reduced pressure. The resulting residue was dissolved in 30 ml. of isopropyl acetate and there was added ethereal hydrogen chloride solution in an amount affording a slight excess of the required amount of hydrogen chloride for conversion of the base to the hydrochloride. The mixture was cooled and the inside of the container was scratched to induce crystallization. The mixture was diluted with 100 ml. of diethyl ether and the solid precipitate was collected on a filter and washed with anhydrous diethyl ether and dried at 70° C. There was thus obtained 11 g. of 3,4-bis(butyryloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol hydrochloride as a white crystalline solid which melted at 136- 138° C. (uncorr.). This salt was soluble in water to the extent of at least 20 per cent. The pH of a 1 per cent aqueous solution of this salt was 6.0; and a precipitate formed when the pH of this solution was raised to 7.0 by addition of N/10 sodium hydroxide solution.

reactant | 3,4-bis(butyryloxy)phenyl N-tert-butylaminomethyl ketone hydrochloride | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(CCC)=O)OC(CCC)=O
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3,4-bis(butyryloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol | C(CCC)(=O)OC=1C=C(C(CNC(C)(C)C)O)C=CC1OC(CCC)=O | C20H31NO5
